US07897767B2
A solution of 1-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol (800 mg, 2.65 mmol) in acetone (10 mL) and methanol (10 mL) was stirred for 20 hours at room temperature, then was concentrated under reduced pressure. The resulting yellow solid was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 5-15% methanol in chloroform) followed by crystallization from acetonitrile to yield 400 mg of acetone O-{[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl}oxime as pale yellow crystals, mp 212-216° C.

reactant | 1-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol | 2.65 mmol, 800 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(O)C)CON | C15H19N5O2
reactant | acetone | 10 mL | CC(=O)C | C3H6O
solvent | methanol | 10 mL | CO | CH4O
product | acetone O-{[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methyl}oxime | 400 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)O)CON=C(C)C | C18H23N5O2
